US08530667B2
To a solution of 4-(6-chloro-4-methyl-pyridin-3-yl)-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (119 mg) in acetone (1 ml) in a microwave vial is added 2N HCl (0.6 ml) and the resultant solution is heated to 130° C. by microwave irradiation, with stirring, for 30 minutes. The crude reaction mixture is quenched with sodium hydrogen carbonate until the cessation of effervescence, and the reaction partitioned between ethyl acetate (40 ml) and saturated aqueous ammonium chloride (40 ml). The organic layer is removed, washed with saturated brine solution, dried over magnesium sulphate, filtered, and the solvent is removed from the filtrate under reduced pressure to give 4-(6-chloro-4-methyl-pyridin-3-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (104 mg).

reactant | 4-(6-chloro-4-methyl-pyridin-3-yl)-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 119 mg | ClC1=CC(=C(C=N1)C=1C(C2C3CCC(C2C1OC)O3)=O)C | C16H16ClNO3
reactant | HCl | 2N, 0.6 ml | Cl | ClH
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 4-(6-chloro-4-methyl-pyridin-3-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 104 mg | ClC1=CC(=C(C=N1)C1C(C2C3CCC(C2C1=O)O3)=O)C | C15H14ClNO3
